US08168642B2
Step 2 Preparation of 2-acetylamino-5-cyanothiazole
2.14 g 2-Amino-5-cyanothiazole was dissolved in 10 ml acetic acid, and 1.8 ml acetic anhydride was added to carry out reaction at 100° C. for 30 min. The reaction product was cooled down, and filtered to obtain 2.5 g of a clay-solid having metallic luster (yield 80%), 1H NMR (DMSO-d6) 2.22 (3H, s), 8.36 (1H, s), 12.95 (1H, s).

reactant | 2-Amino-5-cyanothiazole | 2.14 g | NC=1SC(=CN1)C#N | C4H3N3S
reactant | acetic anhydride | 1.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-acetylamino-5-cyanothiazole | 2.5 g, yield 80% | C(C)(=O)NC=1SC(=CN1)C#N | C6H5N3OS
